US07081463B2
(8-Methyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-methanol (0.03 g, 0.17 mmol) was dissolved in dichloromethane (0.5 mL). To the solution was then added 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3 (1H)-one, also known as Dess-Martin periodinane (0.087 g, 0.20 mmol). The reaction mixture was stirred for 2 hrs then partitioned with an aqueous saturated solution of thiosulfate and dichloromethane. The organic layer was washed with an aqueous saturated solution of thiosulfate, an aqueous saturated solution of sodium bicarbonate, brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield 8-methyl-1,2,3,4-tetrahydro-naphthalene-1-carbaldehyde as a solid.

reactant | (8-Methyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-methanol | 0.17 mmol, 0.03 g | CC=1C=CC=C2CCCC(C12)CO | C12H16O
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3 (1H)-one | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 0.20 mmol, 0.087 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 8-methyl-1,2,3,4-tetrahydro-naphthalene-1-carbaldehyde | CC=1C=CC=C2CCCC(C12)C=O | C12H14O
